US07691881B2
1(5) Ethyl 1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate
A mixture of isopropyl(1-methylethylidene)amine (7.94 g, 80.0 mmol, prepared according to Newcomb, Martin et al., J. Amer. Chem. Soc., 1990, 112, 5186) and diethyl(ethoxymethylene)malonate (17.31 g, 80.0 mmol) in diphenyl ether (48 mL) was stirred in a sealed tube at 180-190° C. for 18 h. After cooling, the mixture was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (v/v=1/1˜1/2) to give 12.5 g (70%) of the title compound as brown oil.

reactant | isopropyl(1-methylethylidene)amine | 80.0 mmol, 7.94 g | C(C)(C)N=C(C)C | C6H13N
reactant | diethyl(ethoxymethylene)malonate | 80.0 mmol, 17.31 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
solvent | diphenyl ether | 48 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 12.5 g, 70% | C(C)(C)N1C(C(=CC=C1C)C(=O)OCC)=O | C12H17NO3
